US04499097
1-[5-Methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]-ethanone pyridine-1-oxide
A 5.0 g (0.025 mole) amount of 1-[5-methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]ethanone was dissolved in 500 ml of dichloromethane and 250 ml of chloroform. Then 5.0 g (0.025 mole) of m-chloroperbenzoic acid (86-90%) was added. The solution was stirred at room temperature and after one hour a precipitate began to form. Stirring was continued for 23 hours. The precipitate was collected by filtration, washed with 50 ml of dichloromethane and air dried. The precipitate was recrystallized from ethanol and gave 1.3 g of the desired product as a white solid, mp 288°-292° C. (dec.).

reactant | 1-[5-methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]ethanone | CC1=C(N=C(N1)C=1C=NC=CC1)C(C)=O | C11H11N3O
reactant | m-chloroperbenzoic acid | 0.025 mole, 5.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[5-Methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]-ethanone pyridine-1-oxide | 1.3 g | [N+]1(=CC=CC=C1)[O-].CC1=C(N=C(N1)C=1C=NC=CC1)C(C)=O | InChI=1S/C11H11N3O.C5H5NO/c1-7-10(8(2)15)14-11(13-7)9-4-3-5-12-6-9;7-6-4-2-1-3-5-6/h3-6H,1-2H3,(H,13,14);1-5H
